US05631373
7-Fluoro-3,4-dihydro-6-methylquinoxaline-2(1H)-one.
A mixture of N-(4-fluoro-5-methyl-2-nitrophenyl)glycine sodium salt (0.125 g, 0.548 mmol) and tin (II) chloride dihydrate (0.370 g, 1.64 mmol, Aldrich, used as received) in ethanol (3.0 mL) was refluxed for 30 min. It was then cooled to room temperature and the solvent was removed under vacuum. The residue was diluted with water (4.0 mL) and basified with saturated NaHCO3 to pH ~8. The resulting suspension was extracted with ethyl acetate (30 mL). The extract was dried over Na2SO4 and evaporated to yield 0.032 g of the title compound as a yellow powder, which was used for the next reaction; 1H NMR (DMSO-d6): 2.024 (s, 3H), 3.607 (s, 2H), 5.751 (s, 1H), 6.453 (d, 1H, J=9.9 Hz), 6.456 (d, 1H, J=8.1 Hz), 10.162 (s, 1H).

reactant | N-(4-fluoro-5-methyl-2-nitrophenyl)glycine sodium salt | 0.548 mmol, 0.125 g | [Na+].FC1=CC(=C(C=C1C)NCC(=O)[O-])[N+](=O)[O-]
reactant | tin (II) chloride dihydrate | 1.64 mmol, 0.370 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | 7-Fluoro-3,4-dihydro-6-methylquinoxaline-2(1H)-one | 0.032 g | FC1=C(C=C2NCC(NC2=C1)=O)C | C9H9FN2O
